US08497381B2
Step 1: (4S,5R)-4-Methyl-5-phenyl-3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-oxazolidin-2-one
Prepared according to the procedure described in Example 2, Step 2, using the following starting materials: (4S,5R)-3-(2-bromo-5-trifluoromethyl-benzyl)-4-methyl-5-phenyl-oxazolidin-2-one and bis(pinacolato)diboron.

reactant | (4S,5R)-3-(2-bromo-5-trifluoromethyl-benzyl)-4-methyl-5-phenyl-oxazolidin-2-one | BrC1=C(CN2C(O[C@@H]([C@@H]2C)C2=CC=CC=C2)=O)C=C(C=C1)C(F)(F)F | C18H15BrF3NO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | (4S,5R)-4-Methyl-5-phenyl-3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-oxazolidin-2-one | C[C@@H]1N(C(O[C@@H]1C1=CC=CC=C1)=O)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C24H27BF3NO4
